US04096267
Step A: 2,3-Dichloro-4-(4-bromophenyl)acetylanisole
To a stirred mixture of 2,3-dichloroanisole (73.5 g., 0.414 mole), 4-bromophenylacetyl chloride (105 g., 0.456 mole) and carbon disulfide (300 ml.) is added portionwise aluminum chloride (60.9 g., 0.456 mole) with cooling at 0°-5° C. The reaction mixture is left at 25° C. for 17 hours, then flushed with nitrogen, and the solid residue treated with crushed ice and 12N hydrochloric acid (80 ml.) to give 147.7 g. of 2,3-dichloro-4-(4-bromophenyl)acetylanisole which melts at 163°-164.5° C. after crystallization from benzene:hexane, 1:1.

reactant | 2,3-dichloroanisole | 0.414 mole, 73.5 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | 4-bromophenylacetyl chloride | 0.456 mole, 105 g | BrC1=CC=C(C=C1)CC(=O)Cl | C8H6BrClO
reactant | aluminum chloride | 0.456 mole, 60.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 300 ml | C(=S)=S | CS2
product | 2,3-Dichloro-4-(4-bromophenyl)acetylanisole | ClC1=C(C=CC(=C1Cl)C(CC1=CC=C(C=C1)Br)=O)OC | C15H11BrCl2O2
